US07728012B2
3.4 N-{1-[Amino(oxo)acetyl]pentyl}-2-(4-phenyl-1H-pyrazol-1-yl)nicotinamide
0.47 g of EDC and 0.08 ml of dichloroacetic acid were added to 100 mg of N-[1-(2-amino-1-hydroxy-2-oxoethyl)pentyl]-2-(4-phenyl-1H-pyrazol-1-yl)pyridine-3-carboxamide (0.25 mmol) in 4 ml of dimethyl sulfoxide, and the mixture was stirred at room temperature overnight. For workup, the reaction mixture was poured into H2O, and the resulting precipitate was filtered off with suction and dried in a vacuum drying oven at 40° C. 77 mg of the title compound were obtained as an amorphous white solid.

reactant | EDC | 0.47 g
reactant | dichloroacetic acid | 0.08 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | N-[1-(2-amino-1-hydroxy-2-oxoethyl)pentyl]-2-(4-phenyl-1H-pyrazol-1-yl)pyridine-3-carboxamide | 0.25 mmol, 100 mg | NC(C(O)C(CCCC)NC(=O)C=1C(=NC=CC1)N1N=CC(=C1)C1=CC=CC=C1)=O | C22H25N5O3
reactant | H2O | O | H2O
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | N-{1-[Amino(oxo)acetyl]pentyl}-2-(4-phenyl-1H-pyrazol-1-yl)nicotinamide | 77 mg | NC(C(=O)C(CCCC)NC(C1=C(N=CC=C1)N1N=CC(=C1)C1=CC=CC=C1)=O)=O | C22H23N5O3
